US05753679
1.28 g (0.0127 mol) of 4-hydroxypiperidine were dissolved in 60 ml of dimethylformamide and cooled to 0°. 3.0 g (0.0159 mol) of 2-fluoro-benzyl bromide and 5.0 ml (0.0349 mol) of triethylamine were added under argon and the mixture was left to come to room temperature. It was stirred for 16 hrs., the solvent was distilled off and the residue was chromatographed on silica gel with dichloromethane/methanol (19:1) as the eluent. 1.76 g (53%) of 2-fluoro-benzyl-piperidin-4-ol were obtained as a yellow oil. MS: me/e=210 (C12H17FNO+).

reactant | 4-hydroxypiperidine | 0.0127 mol, 1.28 g | OC1CCNCC1 | C5H11NO
reactant | 2-fluoro-benzyl bromide | 0.0159 mol, 3.0 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | triethylamine | 0.0349 mol, 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-benzyl-piperidin-4-ol | 1.76 g, 53% | FC1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16FNO
